### PR TITLE
Cow a sock

### PR DESCRIPTION
**Pull request by erdOne**

### CODE REVIEW

File: Toric/Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 1]
```diff
@@ -14,107 +14,536 @@ import Toric.Mathlib.RingTheory.Coalgebra.SimpAttr
...
+
+@[coassoc_simps]
+lemma LinearEquiv.comp_symm_assoc {R S T M M₂ M' : Type*} [Semiring R] [Semiring S]
+    [AddCommMonoid M] [Semiring T] [AddCommMonoid M₂] [AddCommMonoid M']
+    {module_M : Module R M} {module_S_M₂ : Module S M₂} {_ : Module T M'} {σ : R →+* S}
+    {σ' : S →+* R} {re₁ : RingHomInvPair σ σ'} {re₂ : RingHomInvPair σ' σ} (e : M ≃ₛₗ[σ] M₂)
+    {σ'' : T →+* S} {σ''' : T →+* R} [RingHomCompTriple σ'' σ' σ''']
+    [RingHomCompTriple σ''' σ σ'']
+    (f : M' →ₛₗ[σ''] M₂) :
+  e.toLinearMap ∘ₛₗ e.symm.toLinearMap ∘ₛₗ f = f := by ext; simp
```
Comment (YaelDillies) [inline Toric/Mathlib/RingTheory/Coalgebra/CoassocSimps.lean]: Move this earlier? Also
```suggestion
@[coassoc_simps]
lemma LinearEquiv.comp_symm_assoc {R S T M M₂ M' : Type*} [Semiring R] [Semiring S]
    [AddCommMonoid M] [Semiring T] [AddCommMonoid M₂] [AddCommMonoid M']
    {module_M : Module R M} {module_S_M₂ : Module S M₂} {_ : Module T M'} {σ : R →+* S}
    {σ' : S →+* R} {re₁ : RingHomInvPair σ σ'} {re₂ : RingHomInvPair σ' σ} (e : M ≃ₛₗ[σ] M₂)
    {σ'' : T →+* S} {σ''' : T →+* R} [RingHomCompTriple σ'' σ' σ''']
    [RingHomCompTriple σ''' σ σ'']
    (f : M' →ₛₗ[σ''] M₂) :
    e.toLinearMap ∘ₛₗ e.symm.toLinearMap ∘ₛₗ f = f := by ext; simp
```

File: Toric/Mathlib/RingTheory/HopfAlgebra/Convolution.lean [hunk 2]
```diff
@@ -28,19 +28,42 @@ open scoped ConvolutionProduct RingTheory.LinearMap
...
 
 namespace HopfAlgebra
-variable [CommSemiring A] [HopfAlgebra R A]
+
+section Semiring
+
+variable [Semiring A] [HopfAlgebra R A]
+
+lemma _root_.Commute.mul_left_comm {M : Type*} [Monoid M] {a b c : M} (H : Commute a b) :
+    a * (b * c) = b * (a * c) := by rw [← mul_assoc, ← mul_assoc, H]
```
Comment (YaelDillies) [inline Toric/Mathlib/RingTheory/HopfAlgebra/Convolution.lean]: That's [`Commute.left_comm`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Commute/Defs.html#Commute.left_comm)

File: Toric/Mathlib/RingTheory/HopfAlgebra/Convolution.lean [hunk 3]
```diff
@@ -134,47 +175,136 @@ lemma counit_comp_antipode :
...
-    apply left_inv_eq_right_inv (a := comul)
-    · sorry
-    · sorry
+    dsimp
+    rw [map_antipode_antipode_comp_comul, ← LinearMap.comp_assoc, comm_comp_comul]
+
+instance [IsCocomm R A] : Inv (C →ₐc[R] A) where inv := antipodeBialgHom.comp
+
+instance [IsCocomm R C] : Inv (C →ₐc[R] A) where
+  inv f := (f.comp (antipodeBialgHom)).copy (antipode R ∘ f) congr($(f.comp_antipode.symm))
```
Comment (YaelDillies) [inline Toric/Mathlib/RingTheory/HopfAlgebra/Convolution.lean]: Oh god. Do we need something like [`SecondCountableTopologyEither`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.html#SecondCountableTopologyEither) but for `IsCocomm`?

File: Toric/Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 4]
```diff
@@ -14,107 +14,536 @@ import Toric.Mathlib.RingTheory.Coalgebra.SimpAttr
...
+        (((TensorProduct.comm R M M).toLinearMap ∘ₗ δ) ⊗ₘ f) ∘ₗ δ ∘ₗ h =
+    (g ⊗ₘ (f ⊗ₘ .id)) ∘ₗ α ∘ₗ δ ⊗ₘ LinearMap.id ∘ₗ
+      (TensorProduct.comm R M M).toLinearMap ∘ₗ δ ∘ₗ h := by
+  simp_rw [← LinearMap.comp_assoc]
+  congr 1
+  simp only [LinearMap.comp_assoc, foo₉]
+
 lemma comp_assoc_symm (f₁ : M →ₗ[R] N) (f₂ : N →ₗ[R] P) (f₃ : P →ₗ[R] Q) :
-    f₃ ∘ₗ (f₂ ∘ₗ f₁) = (f₃ ∘ₗ f₂) ∘ₗ f₁ := rfl
+    f₃ ∘ₗ (f₂ ∘ₗ f₁) = (f₃ ∘ₗ f₂) ∘ₗ f₁ := by simp only [coassoc_simps]
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Toric/Mathlib/RingTheory/Coalgebra/CoassocSimps.lean]: Ah, let's move them to the test file for now then
